US07825244B2
d. 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester
A solution of 1.19M KOtBu in THF (128 μL, 152 μmol) was added dropwise with stirring over 2.5 min to a 0° C. homogeneous solution of 4-(6,7-Difluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (38.1 mg, 109 μmol), as prepared in the previous step, and 3-(4-Methyl-piperazin-1-yl)-propan-1-ol (22.4 mg, 142 μmol) in THF (170 μL). The reaction was stirred at 0° C. for 1.5 hr, and was then partitioned with DCM (2 mL) and 1M NaCl (2 mL). The aq layer was back-extracted with DCM (1×2 mL), and the combined cloudy white organic layers were dried (Na2SO4) and concentrated. The residue was purified by silica flash chromatography (1:2 hex/EtOAc/3% DMEA eluent) to yield the title compound as an off-white foam (32.6 mg, 61%). NOe experiments support the assigned regioisomer. Select 1H-NMR resonances and nOes (300 MHz, CDCl3) δ 7.73 (d, J=11.4 Hz, 1H), 7.43 (d, J=8.1 Hz, 1H), 3.46 (tt, 1H). Irradiation of the diagnostic methine proton at δ 3.46 generates an nOe to the quinazoline C5 proton at δ 7.73, but not to the quinazoline C8 proton at δ 7.43. The C5 proton has a larger coupling constant than the C8 proton, indicating fluorine substitution at C6 of the quinazoline. LC/MS (ESI): calcd mass 487.3, found 488.3 (MH)+.

reactant | KOtBu | 1.19M | CC(C)(C)[O-].[K+]
reactant | 4-(6,7-Difluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 109 μmol, 38.1 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)F | C18H21F2N3O2
reactant | 3-(4-Methyl-piperazin-1-yl)-propan-1-ol | 142 μmol, 22.4 mg | CN1CCN(CC1)CCCO | C8H18N2O
solvent | THF | 170 μL | C1CCOC1 | C4H8O
solvent | THF | 152 μmol, 128 μL | C1CCOC1 | C4H8O
product | 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | 32.6 mg, 61% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)OCCCN1CCN(CC1)C | C26H38FN5O3
